US06455528B1
(13) Synthesis of N-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)-1-methylethyl)phenylmethyl)acetamide Dihydrochloride Monohydrate
To a solution of N-(4-(1-amino-1-methylethyl)phenylmethyl)-acetamide (1.55 g) and N,N-di(2-chloroethyl)-4-fluoroaniline (1.5 g) in dimethyl sulfoxide (30 ml) were added potassium carbonate (3.12 g) and potassium iodide (2.50 g) and the mixture was stirred at 80° C. for 24 hr. The reaction mixture was poured into water (300 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel chromatography (developing solvent; ethyl acetate:hexane=3:1) and treated with 1M hydrochloric acid-ether in ethanol to give the title compound (0.33 g) as white crystals.

reactant | N-(4-(1-amino-1-methylethyl)phenylmethyl)-acetamide | 1.55 g | NC(C)(C)C1=CC=C(C=C1)CNC(C)=O | C12H18N2O
reactant | N,N-di(2-chloroethyl)-4-fluoroaniline | 1.5 g | ClCCN(C1=CC=C(C=C1)F)CCCl | C10H12Cl2FN
reactant | potassium carbonate | 3.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.50 g | [I-].[K+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | N-(4-(1-(4-(4-Fluorophenyl)piperazin-1-yl)-1-methylethyl)phenylmethyl)acetamide Dihydrochloride Monohydrate | 0.33 g | O.Cl.Cl.FC1=CC=C(C=C1)N1CCN(CC1)C(C)(C)C1=CC=C(C=C1)CNC(C)=O | InChI=1S/C22H28FN3O.2ClH.H2O/c1-17(27)24-16-18-4-6-19(7-5-18)22(2,3)26-14-12-25(13-15-26)21-10-8-20(23)9-11-21;;;/h4-11H,12-16H2,1-3H3,(H,24,27);2*1H;1H2
